US07745641B2
In a similar manner to Step 1 of Example 149, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (80.0 mg, 0.173 mmol) was dissolved in THF (4.0 mL), and the solution was treated with triphenylphosphine (136 mg, 0.519 mmol), 3-(tert-butyldimethylsilyloxy)propanol (0.111 mL, 0.519 mmol) and 40% DEAD-toluene solution (0.237 mL), followed by purification by preparative thin-layer chromatography (chloroform/methanol=4/1) to obtain 4-[3-(tert-butyldimethylsilyloxy)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (58.6 mg, yield 53%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.173 mmol, 80.0 mg | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triphenylphosphine | 0.519 mmol, 136 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(tert-butyldimethylsilyloxy)propanol | 0.519 mmol, 0.111 mL | [Si](C)(C)(C(C)(C)C)OCCCO | C9H22O2Si
reactant | DEAD toluene | 0.237 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | 4-[3-(tert-butyldimethylsilyloxy)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 58.6 mg, yield 53% | [Si](C)(C)(C(C)(C)C)OCCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C36H51N3O5Si
